US07091230B2
Step 1 Preparation of 2,6-diallyl-4-benzyloxyphenol.
To a solution of starting 4-benzyloxyphenol (20 g) in acetone (800 mL) were added allylbromide (50 mL) and K2CO3 (60 g). The reaction mixture was refluxed overnight. After cooling to the room temperature, the insoluble materials were removed by filtration. The filtrate was concentrated in vac. The residue was partitioned between ethyl ether (500 mL) and 2N aqueous NaOH (200 mL). The organic layer was washed with water and brine, dried over anhydrous MgSO4, filtered, and concentrated in vac. to give the desired product.

reactant | 4-benzyloxyphenol | 20 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | allylbromide | 50 mL | C(C=C)Br | C3H5Br
reactant | K2CO3 | 60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 800 mL | CC(=O)C | C3H6O
product | 2,6-diallyl-4-benzyloxyphenol | C(C=C)C1=C(C(=CC(=C1)OCC1=CC=CC=C1)CC=C)O | C19H20O2
